US06696464B2
A mixture of 22.1 g 5-bromo-2-fluoropyridine and 10 mL of 55% aqueous hydrazine in 165 mL of pyridine was heated at reflux for 7 hours. The mixture was cooled to 22° C. concentrated to near dryness. The resulting light yellow solids were suspended in aqueous sodium hydroxide and toluene, stirred, and the solids were collected by vacuum filtration to give 22 g of 5-bromo-pyridin-2-yl-hydrazine as a faint yellow solid.

reactant | 5-bromo-2-fluoropyridine | 22.1 g | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | hydrazine | 10 mL | NN | H4N2
solvent | pyridine | 165 mL | N1=CC=CC=C1 | C5H5N
product | 5-bromo-pyridin-2-yl-hydrazine | 22 g | BrC=1C=CC(=NC1)NN | C5H6BrN3
